US06022987
In the same apparatus and procedures as EXAMPLE 1 above, 50.4 ml (564 mmol) of benzene and 2.92 g (21.9 mmol) of aluminum chloride were alkylated with 10.0 g (43.0 mmol) of (trichloromethyl)methyldichlorosilane under dry nitrogen atmospheric pressure for 5 hours at room temperature. The aluminum chloride catalyst was quenched with PoCl3 and then stirred for another 1 hour to complete the deactivation. Freshly distilled hexane (100 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic soultion. After hexane and benzene were distilled, recrystallization from chloroform yielded 3.58 g of (triphenylmethyl)methyldichlorosilane (mp: 170-172° C., yield; 23%).

reactant | benzene | 564 mmol, 50.4 ml | C1=CC=CC=C1 | C6H6
reactant | aluminum chloride | 21.9 mmol, 2.92 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (trichloromethyl)methyldichlorosilane | 43.0 mmol, 10.0 g | ClC(Cl)(Cl)[Si](Cl)(Cl)C | C2H3Cl5Si
product | (triphenylmethyl)methyldichlorosilane | 3.58 g, yield; 23% | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[Si](Cl)(Cl)C | C20H18Cl2Si
